US04303660
5-(o-Aminophenyl)-4-nitropyrazole is reacted with p-nitrobenzaldehyde as described in Example 11. 1-Nitro-5-(p-nitrophenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline is obtained. M.p.: 190°-191° C. Yield: 90%.

reactant | 5-(o-Aminophenyl)-4-nitropyrazole | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 1-Nitro-5-(p-nitrophenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline | Yield: 90% | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C2=CC=C(C=C2)[N+](=O)[O-] | C16H11N5O4
